US05681838
N-(2-tert-Butoxycarbonylaminoethyl)-N-(9-fluorenylmethoxycarbonyl)aminoacetic acid
10.9 g (50 mmol) of N-(2-tert-butoxycarbonylaminoethyl)aminoacetic acid are stirred together with 50 ml of water, 11.3 g (135 mmol) of sodium hydrogen carbonate and 50 ml of tetrahydrofuran. Subsequently, 24.3 g (72 mmol) of N-(9-fluorenylmethoxycarbonyloxy)succinimide are added. The mixture is stirred at room tmeperature for 20 h and the salt removed by filtration; the filtrate is acidified and the phases separated, and the organic phase is then concentrated.

reactant | N-(2-tert-butoxycarbonylaminoethyl)aminoacetic acid | 50 mmol, 10.9 g | C(C)(C)(C)OC(=O)NCCNCC(=O)O | C9H18N2O4
reactant | water | 50 ml | O | H2O
reactant | sodium hydrogen carbonate | 135 mmol, 11.3 g | C(O)([O-])=O.[Na+]
reactant | N-(9-fluorenylmethoxycarbonyloxy)succinimide | 72 mmol, 24.3 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)ON1C(CCC1=O)=O | C19H15NO5
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(2-tert-Butoxycarbonylaminoethyl)-N-(9-fluorenylmethoxycarbonyl)aminoacetic acid | C(C)(C)(C)OC(=O)NCCN(C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC(=O)O | C24H28N2O6
